US07078407B2
To the solution of 4-hydroxymethyl-2,6-bis-pentyloxyphenol (525 mg, 1.62 mmol), 1-(4-fluorophenyl)-2-piperazine-1-yl-ethanone (432 mg, 1.94 mmol) and PPh3 (509 mg, 1.94 mmol) in drying THF (10 ml) was dropped diethyl azodicarboxylate (0.38 ml, 2.43 mmol) at 0° C. and then was stirred 15 minutes at room temperature. The solution was added with H2O, then CH2Cl2 was evaporated in vacuo and was washed with brine. The obtained organic solution was dried over anhydrous magnesium sulfate and filtered. The obtained filterate was vacuum concentrated to give the residue, which was purified by column chromatography (Hexane:EtOAc=1:10), yielding 129 mg (15%) of 1-(4-fluorophenyl)-2-[4-(4-hydroxy -3,5-bis-pentyloxybenzyl)piperizine-1-yl]ethanone as a yellow oil.

reactant | 4-hydroxymethyl-2,6-bis-pentyloxyphenol | 1.62 mmol, 525 mg | OCC1=CC(=C(C(=C1)OCCCCC)O)OCCCCC | C17H28O4
reactant | 1-(4-fluorophenyl)-2-piperazine-1-yl-ethanone | 1.94 mmol, 432 mg | FC1=CC=C(C=C1)C(CN1CCNCC1)=O | C12H15FN2O
reactant | PPh3 | 1.94 mmol, 509 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | diethyl azodicarboxylate | 2.43 mmol, 0.38 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | H2O | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-(4-fluorophenyl)-2-[4-(4-hydroxy -3,5-bis-pentyloxybenzyl)piperizine-1-yl]ethanone | 129 mg, 15% | FC1=CC=C(C=C1)C(CN1CCN(CC1)CC1=CC(=C(C(=C1)OCCCCC)O)OCCCCC)=O | C29H41FN2O4
